US05648354
3-(Hydroxymethyl)-6-[(2-trifluoromethylphenyloxy)methyl]-1,2-dithiin.
To a stirred solution of the 3-[(tert-butyldimethylsilyloxy)methyl]-6-[(2-trifluoromethylphenyloxy)methyl]-1,2-dithiin obtained above (70 mg, 0.16 mmol) in 2 mL THF was added a mixture of 1.0 mL of 1M tetrabutylammonium fluoride in THF and 0.6 mL of acetic acid. The reation mixture was stirred for 7 h until TLC analysis showed the reaction to be complete, then concentrated in vacuo. The residue was partitioned between 20 mL of water and 20 mL ethyl acetate. The organic phase was washed with 3% solution of aqueous sodium bicarbonate (50 mL), water, dried over sodium sulfate, and then concentrated to a small volume. The residue was purified by silica gel chromatography (ethyl acetate-hexane, 1:3) to yield 30 mg (58%) of the title compound; 1H NMR (CDCl3):δ7.60 (dd, J=8.0, J=l.6, 1 H), 7.50 (t, J=8.4, 1 H), 7.08 (t, J=8.0, 1 H), 6.99 (d, J=8.0 Hz, 1 H), 6.54 (d, J=6.0 Hz, 1 H), 6.44 (d, 1 H, J=6.0), 4.76 (s, 2 H), 4.30 (s, 2 H), 1.93 (bs, 1 H); 13C NMR (CDCl3):161.14, 135.73, 133.26, 128.84, 127.31 (q, J=5.4), 126.59, 125.06, 123.33, 120.90, 113.11, 69.45, 64.59; EI-MS:m/z 320.62.

reactant | 3-[(tert-butyldimethylsilyloxy)methyl]-6-[(2-trifluoromethylphenyloxy)methyl]-1,2-dithiin | [Si](C)(C)(C(C)(C)C)OCC=1SSC(=CC1)COC1=C(C=CC=C1)C(F)(F)F | C19H25F3O2S2Si
reactant | tetrabutylammonium fluoride | 1M, 1.0 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 0.6 mL | C(C)(=O)O | C2H4O2
product | 3-(Hydroxymethyl)-6-[(2-trifluoromethylphenyloxy)methyl]-1,2-dithiin | 30 mg, 58% | OCC=1SSC(=CC1)COC1=C(C=CC=C1)C(F)(F)F | C13H11F3O2S2
